US07435837B2
Treatment of (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate (0.50 g, 1.305 mmol) with (5-chloro-2-methylphenyl)boronic acid (0.334 g, 1.96 mmol) generally according to the procedure described for Intermediate 184 provided 0.451 g (81%) of (±)-[7-(5-chloro-2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate as a white solid. Rf=0.43 (silica, ethyl acetate:hexanes 1:4).

reactant | (±)-(7-bromo-2,3-dihydro-1-benzofuran-2-yl)methyl 4-methylbenzenesulfonate | 1.305 mmol, 0.50 g | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2Br | C16H15BrO4S
reactant | (5-chloro-2-methylphenyl)boronic acid | 1.96 mmol, 0.334 g | ClC=1C=CC(=C(C1)B(O)O)C | C7H8BClO2
product | (±)-[7-(5-chloro-2-methylphenyl)-2,3-dihydro-1-benzofuran-2-yl]methyl 4-methylbenzenesulfonate | 0.451 g, 81% | CC1=CC=C(C=C1)S(=O)(=O)OCC1OC2=C(C1)C=CC=C2C2=C(C=CC(=C2)Cl)C | C23H21ClO4S
